US04110447
1.5 g of zinc dust are added, while stirring, to a solution of 2.39 g of 3-p-biphenylyl-butanaldoxime in 25 ml of acetic acid. The mixture is stirred for a further 4 hours, filtered, diluted with water, rendered alkaline with ammonia and extracted with chloroform. After the customary working up, 3-p-biphenylyl-butylamine is obtained. Hydrochloride, m.p. 226°-228°.

reactant | 3-p-biphenylyl-butanaldoxime | 2.39 g | C1(=C(C=CC=C1)C(CC=NO)C)C1=CC=CC=C1 | C16H17NO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.5 g | [Zn] | Zn
product | 3-p-biphenylyl-butylamine | C1(=C(C=CC=C1)C(CCN)C)C1=CC=CC=C1 | C16H19N
